US04576952
7-(4-Hydroxyanilino)-1H-pyrazolo[4,3-b]pyridine hemihydrate (E9)
A mixture of 7-chloro-1H-pyrazolo[4,3-b]pyridine (0.50 g, 3.26 mmol) and 4-aminophenol (0.71 g, 6.52 mmol) in xylene (10 ml) was heated under reflux under nitrogen for 5 h. After cooling the reaction mixture, the solid was collected and washed well with ethyl acetate and water. The solid was then dissolved in warm aqueous methanol, and the solution was adjusted to pH 8 with saturated sodium bicarbonate solution. The product separated as needles, which were recrystallised from aqueous methanol to give the title compound (260 mg, 35%), mp 286°-296° C.

reactant | 7-chloro-1H-pyrazolo[4,3-b]pyridine | 3.26 mmol, 0.50 g | ClC1=C2C(=NC=C1)C=NN2 | C6H4ClN3
reactant | 4-aminophenol | 6.52 mmol, 0.71 g | NC1=CC=C(C=C1)O | C6H7NO
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 7-(4-Hydroxyanilino)-1H-pyrazolo[4,3-b]pyridine hemihydrate | 260 mg, 35% | O.OC1=CC=C(NC2=C3C(=NC=C2)C=NN3)C=C1.OC1=CC=C(NC3=C2C(=NC=C3)C=NN2)C=C1 | InChI=1S/2C12H10N4O.H2O/c2*17-9-3-1-8(2-4-9)15-10-5-6-13-11-7-14-16-12(10)11;/h2*1-7,17H,(H,13,15)(H,14,16);1H2
